US07091215B2
After adding dichlorobis(triphenylphosphine)palladium (II) (671 mg) and copper iodide (91 mg) to a solution of 2-bromo-3-methoxypyridine (18.0 g) in diethylamine (250 mL), 1-butyne (15.5 g) was bubbled through at room temperature, and the mixture was stirred for 20 hours. Upon completion of the reaction, the solvent was distilled off under reduced pressure. Water was added to the obtained residue, extraction was performed with ethyl acetate, the extract was washed with brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was subjected to silica gel column chromatography (500 g), and 2-(1-butynyl)-4-methoxypyridine (10.0 g) was obtained from the n-hexane:ethyl acetate (2:1) fraction as a brown oil.

reactant | 2-bromo-3-methoxypyridine | 18.0 g | BrC1=NC=CC=C1OC | C6H6BrNO
reactant | 1-butyne | 15.5 g | C#CCC | C4H6
reactant | diethylamine | 250 mL | C(C)NCC | C4H11N
catalyst | dichlorobis(triphenylphosphine)palladium | 671 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 91 mg | [Cu](I)I
product | 2-(1-butynyl)-4-methoxypyridine | 10.0 g | C(#CCC)C1=NC=CC(=C1)OC | C10H11NO
